US04508727
10 g of benzyl (4S)-1-methyl-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate and 40 ml of a hydrogen bromide-acetic acid solution are treated in the same manner as described in Preparation 4-(3), whereby 5.3 g of benzyl (4S)-1-methyl-2-oxo-imidazolidine-4-carboxylate are obtained as colorless crystals. Yield: 83.3%

reactant | benzyl (4S)-1-methyl-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate | 10 g | CN1C(N([C@@H](C1)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O | C20H20N2O5
solvent | hydrogen bromide acetic acid | 40 ml | Br.C(C)(=O)O
product | benzyl (4S)-1-methyl-2-oxo-imidazolidine-4-carboxylate | 5.3 g, Yield: 83.3% | CN1C(N[C@@H](C1)C(=O)OCC1=CC=CC=C1)=O | C12H14N2O3
